US07557114B2
(b) 5-Ethoxy-2,3-dihydro-1H-isoindole hydrochloride
Prepared in analogy to Example A3(e) from 5-ethoxy-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and hydrochloric acid. Brown solid. MS (m/e): 164.4 ([M+H]+, 100%).

reactant | 5-ethoxy-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)OCC | C15H21NO3
reactant | hydrochloric acid | Cl | ClH
product | 5-Ethoxy-2,3-dihydro-1H-isoindole hydrochloride | Cl.C(C)OC=1C=C2CNCC2=CC1 | InChI=1S/C10H13NO.ClH/c1-2-12-10-4-3-8-6-11-7-9(8)5-10;/h3-5,11H,2,6-7H2,1H3;1H
